US08735384B2
Sulfuric acid (7.67 mL, 144 mmol) was added to a solution of 2-(1H-indazol-1-yl)aniline (1.771 g, 8.46 mmol) in concentrated HCl (2.030 mL, 25.4 mmol) at 0° C. The solution was stirred and after cooling back to 0° C., sodium nitrite (0.584 g, 8.46 mmol) in water (3.5 mL) was added dropwise. The reaction was stirred 40 min at 0° C. before potassium iodide (2.81 g, 16.93 mmol) in water (3.5 mL) was added dropwise and the solution was stirred at RT. After 1 h, the reaction is poured into ice with ethyl acetate and separated. The aqueous layer was extracted with EtOAc. The combined organic extracts were washed with 1N HCl, water, saturated sodium bicarbonate, 1N sodium sulfite, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material as an orange oil. The crude material was purified by silica gel chromatography by eluting with 1:4 EtOAc in hexane, to provide 1-(2-iodophenyl)-1H-indazole.

reactant | Sulfuric acid | 144 mmol, 7.67 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(1H-indazol-1-yl)aniline | 8.46 mmol, 1.771 g | N1(N=CC2=CC=CC=C12)C1=C(N)C=CC=C1 | C13H11N3
reactant | HCl | 25.4 mmol, 2.030 mL | Cl | ClH
reactant | sodium nitrite | 8.46 mmol, 0.584 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 16.93 mmol, 2.81 g | [I-].[K+]
solvent | water | 3.5 mL | O | H2O
solvent | water | 3.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-iodophenyl)-1H-indazole | IC1=C(C=CC=C1)N1N=CC2=CC=CC=C12 | C13H9IN2
